US07635715B2
A solution of the hydrochloride salt of methyl N-((6-chloro-4-hydroxy-2-oxo-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate (0.050 g, 0.12 mmol) and Hunig's base (0.024 mL, 0.14 mmol) in DMF/DMSO (2:1, 1.5 mL) was stirred at 25° C. for 5 minutes. A mixture of benzoic acid (0.067 g, 0.54 mmol) and N-(3-dimethylaminopropyl)-n′-ethylcarbodiimide hydrochloride (0.13 g, 0.65 mmol) in DMF (1 mL) was added. The mixture was stirred at 60° C. for 8 hours. The solution was diluted with EtOAc (20 mL), and washed with brine (2×25 mL). The organic layer was dried over MgSO4, concentrated, and purified by flash column chromatography (silica, 0-1% MeOH in DCM) to give methyl N-((6-chloro-4-hydroxy-2-oxo-1′-(phenylcarbonyl)-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate. MS m/e=483.5 (M+H)+.

reactant | methyl N-((6-chloro-4-hydroxy-2-oxo-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate | 0.12 mmol, 0.050 g | ClC=1C=C2C(=C(C(C3(CCNCC3)C2=CC1)=O)C(=O)NCC(=O)OC)O | C18H19ClN2O5
reactant | Hunig's base | 0.14 mmol, 0.024 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzoic acid | 0.54 mmol, 0.067 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N-(3-dimethylaminopropyl)-n′-ethylcarbodiimide hydrochloride | 0.65 mmol, 0.13 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF DMSO | 1.5 mL | CN(C)C=O.CS(=O)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | methyl N-((6-chloro-4-hydroxy-2-oxo-1′-(phenylcarbonyl)-spiro[naphthalene-1,4′-piperidin]-3-yl)carbonyl)glycinate | ClC=1C=C2C(=C(C(C3(CCN(CC3)C(=O)C3=CC=CC=C3)C2=CC1)=O)C(=O)NCC(=O)OC)O | C25H23ClN2O6
